US05019577
(b) Preparation of Diethyl N-(4-amino-3-fluorobenzoyl)-(L)-glutamate
A solution of diethyl N-(4-nitro-3-fluorobenzoyl)-(L)-glutamate (5.3 g, 14 mmoles) in 95% ethanol (150 mL) was mixed with 10% palladium on carbon (0.4 g) and placed on a Parr apparatus. The mixture was shaken under hydrogen atmosphere for 1.5 hours. The reaction mixture was filtered, spin evaporated, and dried to give a cream solid; yield, 4.7 g (98%); mp 92°-97° C.; 1H-NMR (CDCl3) δ 1.22 and 1.29 (2t overlapped, 6H), 1.6 (br s, 2H), 2.1-2.5 (m, 4H), 4.10 and 4.22 (2q overlapped, 4H), 4.74 (m, 1H), 6.75 (t, 1H), 6.84 (d, 1H), 7.4-7.5 (m, 2H); uv (MeOH) 281 nm max (12000), 236 min (1480), 210 sh (10600); mass spec (CI) m/e 341 (100%), 138 (64).

reactant | diethyl N-(4-nitro-3-fluorobenzoyl)-(L)-glutamate | 14 mmoles, 5.3 g | [N+](=O)([O-])C1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)F | C16H19FN2O7
reactant | MeOH | CO | CH4O
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | Diethyl N-(4-amino-3-fluorobenzoyl)-(L)-glutamate | NC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)F | C16H21FN2O5
